US07084120B2
Boc-Gly-Oh (1 eq.) is dissolved in 20 ml of tetrahydrofuran (THF), cooled to −10° C. and, with stirring, N-methyl-morpholine (1 eq.) and chloroformic acid isobutyl ester (1 eq.) are added in succession. Activation is carried out for about 20 min. In parallel, Pro-Ile-Thia.HC1 (1 eq.) is suspended in 10 ml. of THF, equilibrated to −10° C., and N-methylmorpholine (1 eq.) is added for the purpose of neutralisation. After completion of the activation time, both solutions are mixed together and, after one to two hours, heated to room temperature and stirred overnight. A small amount of water is then added to the reaction mixture and the THF is distilled off in vacuo. The remaining residue is taken up in ethyl acetate and washed at least three times with saturated sodium bicarbonate solution, once with saturated NaC1 solution, three times with dilute KHSO4 and again with saturated NaC1 solution. The ethyl acetate phase is dried over Na2SO4, concentrated using a rotary evaporator and the product Boc-Gly-Pro-Ile-Thiazolidide is recrystallised using ethyl acetate/pentane (yield 85%). The removal of Boc is carried out analogously to the synthesis of H-Pro-Ile-Thia/HC1 (yield>95%).

reactant | Boc-Gly-Oh | 1 eq. | CC(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | N-methyl-morpholine | 1 eq. | CN1CCOCC1 | C5H11NO
reactant | chloroformic acid isobutyl ester | 1 eq. | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | Pro-Ile | N1[C@H](C(=O)N[C@@H]([C@@H](C)CC)C(=O)O)CCC1 | C11H20N2O3
reactant | N-methylmorpholine | 1 eq. | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl acetate pentane | yield 85% | C(C)(=O)OCC.CCCCC | InChI=1S/C5H12.C4H8O2/c1-3-5-4-2;1-3-6-4(2)5/h3-5H2,1-2H3;3H2,1-2H3
